US05723499
Preparation of methyl 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzoate
Following the basic procedure of Example 12, by reacting 980 mg (2.4 mmol) of methyl 4-[7-(1-adamantyl)-6-hydroxy-2-naphthyl]benzoate with 330 μl (28.6 mmol) of methoxyethoxymethyl chloride, 650 mg (55%) of the expected compound were obtained in the form of an oil.

reactant | methyl 4-[7-(1-adamantyl)-6-hydroxy-2-naphthyl]benzoate | 2.4 mmol, 980 mg | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)OC)C=C2)O | C28H28O3
reactant | methoxyethoxymethyl chloride | 28.6 mmol, 330 μl | COCCOCCl | C4H9ClO2
product | methyl 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzoate | 650 mg, 55% | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)OC)C=C2)OCOCCOC | C32H36O5
